US09024027B2
A mixture of ethyl 2-(3-nitro-1H-indol-1-yl)acetate (578 mg, 2.328 mmol), di-tert-butyl dicarbonate (1525 mg, 6.99 mmol) and a catalytic amount of 10% w/w Pd/C in dry MeOH (20 ml) was hydrogenated in a Parr apparatus at 40 psi overnight. The catalyst was filtered off, and the filtrate was evaporated (30° C., 100 mBar) to give a crude that was purified by flash chromatography on silica gel (petroleum ether:ethyl acetate from 90:10 to 85:15) to afford ethyl 2-(3-(tert-butoxycarbonylamino)-1H-indol-1-yl)acetate (452 mg, 1.420 mmol, 61% yield). MS/ESI+ 341.1 [MNa]+.

reactant | ethyl 2-(3-nitro-1H-indol-1-yl)acetate | 2.328 mmol, 578 mg | [N+](=O)([O-])C1=CN(C2=CC=CC=C12)CC(=O)OCC | C12H12N2O4
reactant | di-tert-butyl dicarbonate | 6.99 mmol, 1525 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | ethyl 2-(3-(tert-butoxycarbonylamino)-1H-indol-1-yl)acetate | 1.420 mmol, 452 mg, 61% yield | C(C)(C)(C)OC(=O)NC1=CN(C2=CC=CC=C12)CC(=O)OCC | C17H22N2O4
